US06509472B2
(S)-2-amino-2-cyclohexyl-1,1-bis-(4-methoxyphenyl)ethanol (71.1 mg, 0.2 mmol), dry tetrahydrofuran (2 mL) and trimethylborate (27.2 μL, 0.24mmol) were added to a dry flask and stirred under an atmosphere of nitrogen for 1.5 hours to form a solution of (S)-4-cyclohexyl-5,5-bis-(4-methoxyphenyl)-2-methoxy-1,3,2-oxazaborolidine. Borane dimethylsulfide complex (100 μL, 1.0 mmol) was added to this solution and the mixture was stirred at room temperature for a further 30 minutes. A solution of 3,5-(bistrifluoromethyl)-acetophenone (180 μL, 1.0 mmol) in tetrahydrofuran (3 mL) was added by means of a syringe pump at a rate of 9 mL/min and the reaction then stirred for a further 1.5 hours. Thin layer chromatography (silica gelhexane/ethyl acetate 4:1) showed no starting material. The reaction was quenched by addition of methanol. The solvent was evaporated under vacuum and the residue was dissolved in ethyl acetate and washed 3 times with 1N HCl. The ethyl acetate solution was dried over magnesium sulfate, filtered through a plug of silica gel and concentrated to give (R)-1-[3,5-(bistrifluoromethyl)phenylethanol. The enantiomer ratio was determined by HPLC using a Chiralcel OD 25 cm×4.6 mm column with hexane/2-propanol (97: 3) mobile phase at 0.7 mL/min at 25° C. Detection with UV was at 254 nm.

reactant | (S)-2-amino-2-cyclohexyl-1,1-bis-(4-methoxyphenyl)ethanol | 0.2 mmol, 71.1 mg | N[C@H](C(O)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C1CCCCC1 | C22H29NO3
reactant | trimethylborate | 0.24mmol, 27.2 μL | COB(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (S)-4-cyclohexyl-5,5-bis-(4-methoxyphenyl)-2-methoxy-1,3,2-oxazaborolidine | C1(CCCCC1)[C@@H]1NB(OC1(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)OC | C23H30BNO4
